US06093710
A mixture of sodium hydride (NaH) (60% in Nujol, 0.69 g) and dimethyl sulfoxide (DMSO) (9 ml) was stirred at 70° C. for 2 hours. Abater cooling to r.t., THF (6 ml) and n-butyl-triphenylphosphonium bromide (7.26 g) were added thereto. The reaction mixture was stirred at r.t. for 1 hour, and then 4-oxo-5,6,7,8-tetrahydro-4H-cyclohepta[b]thiophene (1.44 g) was added. The mixture was stirred at r.t. overnight and poured into a mixture of a saturated aqueous solution of ammonium chloride (NH4Cl) and AcOEt. The separated organic layer was washed with water and brine, and dried over MgSO4, and evaporated. The resulting oil was purified by chromatography on SiO2 (1% AcOEt in n-hexane as eluent). The fractions containing the object compound were combined and evaporated to give 4-n-butylidene-5,6,7,8-tetrahydro-4H-cyclohepta[b]thiophene (1.15 g) as an oil.

reactant | sodium hydride | 0.69 g | [H-].[Na+]
reactant | dimethyl sulfoxide | 9 ml | CS(=O)C | C2H6OS
reactant | 4-oxo-5,6,7,8-tetrahydro-4H-cyclohepta[b]thiophene | 1.44 g | O=C1CCCCC=2SC=CC21 | C9H10OS
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | AcOEt | CCOC(=O)C | C4H8O2
catalyst | n-butyl-triphenylphosphonium bromide | 7.26 g | [Br-].C(CCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 6 ml | C1CCOC1 | C4H8O
product | 4-n-butylidene-5,6,7,8-tetrahydro-4H-cyclohepta[b]thiophene | 1.15 g | C(CCC)=C1CCCCC=2SC=CC21 | C13H18S
